US07135600B2
(ii) 3-{4-[(6-Bromohexyl)oxy]but-1-ynyl}benzenesulfonamide
A mixture of 3-bromo-benzenesulfonamide (625 g), 6-bromohexyl but-3-ynyl ether (850.1 g), bis(triphenylphosphine)palladium (II) chloride (62.5 g), triphenylphosphine (18.1 g) and triethylamine (536.3 g) in tetrahydrofuran (6250 ml) was stirred under an atmosphere of nitrogen for 20 mins. Copper (I) iodide (12.5 g) was then added to give a dark red/brown mixture that was heated to 50° C. for 23 h. The reaction mixture was then cooled to room temperature and filtered through a short silica pad (1000 g). The pad was washed with additional tetrahydrofuran (15.6 L) and the resulting solution then concentrated under reduced pressure to give crude product (1382 g) as a viscous oil. This was purified by chromatography (7 kg silica) eluting with 5:1 petroleum ether:ethyl acetate followed by 2:1 petroleum ether:ethyl acetate to give the title compound (932.9 g) as an oil, LC RT=5.69 min, δ (DMSO-d6) 7.79 (1H, s), 7.76 (1H, d, J 7.6 Hz), 7.56 (2H, m), 7.42 (2H, m), 3.55 (2H, t, J 6.6 Hz), 3.49 (2H, t, J 6.6 Hz), 3.42 (2H, t, J 6.6 Hz), 2.68 (2H, t, J 6.6 Hz), 1.76 (2H, m), 1.50 (2H, m), 1.35 (4H, m).

reactant | 3-bromo-benzenesulfonamide | 625 g | BrC=1C=C(C=CC1)S(=O)(=O)N | C6H6BrNO2S
reactant | 6-bromohexyl but-3-ynyl ether | 850.1 g | C(CC#C)OCCCCCCBr | C10H17BrO
reactant | triethylamine | 536.3 g | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 6250 ml | O1CCCC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium (II) chloride | 62.5 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | Copper (I) iodide | 12.5 g | [Cu]I
catalyst | triphenylphosphine | 18.1 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-{4-[(6-Bromohexyl)oxy]but-1-ynyl}benzenesulfonamide | 932.9 g | BrCCCCCCOCCC#CC=1C=C(C=CC1)S(=O)(=O)N | C16H22BrNO3S
